US07989461B2
A suspension of 6-methyl-5-nitroisoquinolin-1(2H)-one (40 g, 196 mmol) in glacial acetic acid (1 L) was purged with N2. The suspension was treated with 10% Pd/C (10 g) and the reaction vessel was purged with H2. The mixture was stirred at room temperature under H2 (1 atm) until starting material consumed, approximately 100 h. The reaction mixture was purged with N2, then filtered through a pad of Celite. The pad was washed with MeOH (400 mL) and the combined filtrate was treated with water (80 mL) and concentrated in vacuo to ˜200 mL. The dark mixture was diluted with 200 mL MeOH and added in a thin stream to ice water (1.5 L) stirred in a large beaker. The resulting fine precipitate was collected by suction filtration. The greenish-grey powder was suspended in water (500 mL) and satd NaHCO3 (100 mL) and sonicated for 1 min. The solid was collected by suction filtration, washed with water (2×100 mL), Et2O (100 mL), and air-dried overnight to afford 28 g as a grey powder. The powder was dissolved in hot DMF (200 mL) and treated with decolorizing carbon (˜10 g). The hot suspension was filtered through Celite. The filter cake was washed with MeOH (200 mL) and the filtrate was concentrated in vacuo to ˜200 mL. The dark brown solution was added to water (1.2 L) to afford a fine crystalline precipitate. The solid was collected by suction filtration on a medium-sintered glass frit and washed with water (500 mL). A second crop precipitated in the filtrate and was collected by suction filtration, washed with water (100 mL) and added to the first crop. The combined material was washed with Et2O (400 mL), and dried on the sintered glass funnel under a stream of N2, with suction, for 16 h to afford 5-amino-6-methylisoquinolin-1(2H)-one (22 g, 64% yield) as a tan crystalline solid. MS (M+H)+ 175.

reactant | 6-methyl-5-nitroisoquinolin-1(2H)-one | 196 mmol, 40 g | CC=1C(=C2C=CNC(C2=CC1)=O)[N+](=O)[O-] | C10H8N2O3
solvent | acetic acid | 1 L | C(C)(=O)O | C2H4O2
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 5-amino-6-methylisoquinolin-1(2H)-one | 22 g, 64% yield | NC1=C2C=CNC(C2=CC=C1C)=O | C10H10N2O
